US07405219B2
(5-Amino-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-N-(3-chlorophenyl)acetamide (Example 31)
A suspension of (5-amino-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)acetic acid (140 mg, 0.5 mmol) in DMF (1 mL) was treated with carbonyl diimidazole (81 mg, 0.5 mmol), stirred at room temperature for 1 h, treated with 3-chloroaniline (53 μL, 0.5 mmol) and the mixture heated to 50° C. for 16 h. The reaction mixture was cooled, diluted with water (3 mL) and filtered to give the title compound (94 mg, 48%) as a cream solid.

reactant | (5-amino-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)acetic acid | 0.5 mmol, 140 mg | NC=1N=C(C2=C(N1)N(N=N2)CC(=O)O)C=2OC=CC2 | C10H8N6O3
reactant | carbonyl diimidazole | 0.5 mmol, 81 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3-chloroaniline | 0.5 mmol, 53 μL | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | 3 mL | O | H2O
product | (5-Amino-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-N-(3-chlorophenyl)acetamide | 94 mg, 48% | NC=1N=C(C2=C(N1)N(N=N2)CC(=O)NC2=CC(=CC=C2)Cl)C=2OC=CC2 | C16H12ClN7O2
